US04602032
(a) 9-amino-3,4-dimethoxy-6-methyl-phenanthrene (compound of formula V)
A mixture of 400 ml (2.87M) of trifluoroacetic anhydride and 400 ml (5.22M) of trifluoroacetic acid is added at room temperature under a nitrogen atmosphere to 61.1 g (0.206M) of 3,4-dimethoxy-6-methyl-phenanthrene-9-carboxylic acid and the mixture is stirred for 10 minutes. After the mixture has been cooled to -5°, 16.08 g (0.247M) sodium azide are carefully added in solid form. The mixture is stirred for 2 hours at 0°, poured onto ice, extracted three times with methylene chloride and washed with a solution 1N of sodium hydroxide. The aqueous phases are extracted twice with methylene chloride 2-propanol 8:2. The organic phases are combined, dried and evaporated, to give white crystals. 86 g of the resultant mixted anhydride are warmed for 2 hours under reflux in 800 ml of a solution 2N of sodium hydroxide and 800 ml ethanol and the mixture is evaporated. The residue is washed with water/ice and extracted three times with methylene chloride. The organic phases are combined, dried and evaporated to give the title compound as an oil.

reactant | trifluoroacetic anhydride | 2.87M, 400 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 5.22M, 400 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,4-dimethoxy-6-methyl-phenanthrene-9-carboxylic acid | 0.206M, 61.1 g | COC=1C=CC=2C=C(C3=CC=C(C=C3C2C1OC)C)C(=O)O | C18H16O4
reactant | sodium azide | 0.247M, 16.08 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 9-amino-3,4-dimethoxy-6-methyl-phenanthrene | NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C17H17NO2
